US07563805B2
Ethyl 1-benzyloxycarbonyl-4-oxopyrrolidine-3-carboxylate
To a solution of ethyl 3-[N-benzyloxycarbonyl-N-(ethoxycarbonyl methyl)amino]ethylpropionate (26.8 g, 79.5 mmol) in ethanol (200 mL), sodium ethoxide (20% solution in ethanol, 40.6 mL, 119.3 mmol) was added, and the mixture was heated under reflux for 2 hours. After concentrating the reaction mixture under reduced pressure, the residue was dissolved in water (100 mL). Concentrated hydrochloric acid was added to this solution in an ice bath for acidification, and the solution was extracted with chloroform (100 mL×3). The extract was washed with saturated aqueous solution of sodium chloride (100 mL), and dried with anhydrous sodium sulfate. After the filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 2:1) to obtain 16.7 g (72%) of the title compound as a pale brown oily product.

reactant | ethyl 3-[N-benzyloxycarbonyl-N-(ethoxycarbonyl methyl)amino]ethylpropionate | 79.5 mmol, 26.8 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OCC)CCCCC(=O)OCC | C19H27NO6
reactant | sodium ethoxide | 119.3 mmol, 40.6 mL | [O-]CC.[Na+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | Ethyl 1-benzyloxycarbonyl-4-oxopyrrolidine-3-carboxylate | 16.7 g, 72% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)=O)C(=O)OCC | C15H17NO5
